US09085592B2
Preparation of Fosamprenavir Calcium
Calcium salt of (3S)-tetrahydrofuran-3-yl[(2S,3R)-4-{(2-methylpropyl)[(4-nitrophenyl)sulfonyl]amino}-1-phenyl-3-(phosphonooxy)butan-2-yl]carbamate (5 g) was added into a mixture of methanol (50 mL) and ethyl acetate (50 mL) at 20° C. to 25° C. and stirred for 20 minutes. The reaction mixture was filtered through Celite bed and the bed was washed with methanol:ethyl acetate (1:1, 12.5 mL). Palladium-carbon (10%; 1 g) was added to the filtrate and stirred at 20° C. to 25° C. under hydrogen pressure 30 to 40 psi for 4 to 5 hours. The resultant mixture was filtered over Celite bed and the bed was washed with methanol:ethylacetate (1:1; 12.5 mL). The solvent was removed from the filtrate under vacuum at 40° C. to 45° C. to obtain a residue. De-ionized water (50 mL) was added to the residue and stirred at 90° C. to 95° C. for 2 to 3 hours. The reaction mixture was cooled to 20° C. to 25° C. and stirred for 2 hours further. The solid obtained was filtered, washed with de-ionized water (10 mL) and dried at 40° C. Industrial methylated spirit (52.5 mL) was added to the dried solid at 20° C. to 25° C., heated at 70° C. to 72° C., stirred for 15 minutes, filtered at hot condition through Celite bed and washed with hot industrial methylated spirit (17.5 mL). The filtrate was heated at 70° C. to 72° C. followed by the addition of de-ionized water (10.5 mL). The mixture was cooled to 20° C. to 25° C., stirred for 2 hours further, filtered, washed industrial methylated spirit: de-ionized water (1:1, 10 mL) and dried at 40° C. under vacuum to obtain the title compound.

reactant | Calcium | [Ca] | Ca
reactant | (3S)-tetrahydrofuran-3-yl[(2S,3R)-4-{(2-methylpropyl)[(4-nitrophenyl)sulfonyl]amino}-1-phenyl-3-(phosphonooxy)butan-2-yl]carbamate | 5 g | O1C[C@H](CC1)OC(N[C@@H](CC1=CC=CC=C1)[C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)OP(=O)(O)O)=O | C25H34N3O11PS
reactant | methanol | 50 mL | CO | CH4O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | Fosamprenavir Calcium | CC(C)CN(C[C@H]([C@H](CC=1C=CC=CC1)NC(=O)O[C@H]2CCOC2)OP(=O)([O-])[O-])S(=O)(=O)C=3C=CC(=CC3)N.[Ca+2] | InChI=1S/C25H36N3O9PS.Ca/c1-18(2)15-28(39(33,34)22-10-8-20(26)9-11-22)16-24(37-38(30,31)32)23(14-19-6-4-3-5-7-19)27-25(29)36-21-12-13-35-17-21;/h3-11,18,21,23-24H,12-17,26H2,1-2H3,(H,27,29)(H2,30,31,32);/q;+2/p-2/t21-,23-,24+;/m0./s1
